US07320994B2
4-trimethylsilanyl-3-(2-trimethylsilanyl-ethoxymethoxy)-pyridine
Add t-BuLi dropwise to a −78° C. solution of 3-(2-trimethylsilanyl-ethoxymethoxy)-pyridine (1.98 g, 8,8 mmol) in Et2O (25 mL, freshly distilled over Na0). After 1 hour, add chlorotrimethylsilane (1.33 mL, 10.5 mmol) dropwise and allow reaction to warm slowly to RT. After 1.5 hours, add water (5 mL) dropwise to quench. Wash with saturated NaHCO3 solution and brine. Dry the combined organic layers over MgSO4 and concentrate. Purify the residue by flash chromatography on silica gel eluting with 0-30% EtOAc/hexanes to afford the title compound (1.57 g, 60%) as yellow oil. MS(IS) 298 (M+1). TLC: Rf=0.38 (35% EtOAc/hexanes).

reactant | t-BuLi | [Li]C(C)(C)C
reactant | 3-(2-trimethylsilanyl-ethoxymethoxy)-pyridine | 8,8 mmol, 1.98 g | C[Si](CCOCOC=1C=NC=CC1)(C)C | C11H19NO2Si
reactant | chlorotrimethylsilane | 10.5 mmol, 1.33 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | water | 5 mL | O | H2O
solvent | Et2O | CCOCC | C4H10O
product | 4-trimethylsilanyl-3-(2-trimethylsilanyl-ethoxymethoxy)-pyridine | 1.57 g, 60% | C[Si](C1=C(C=NC=C1)OCOCC[Si](C)(C)C)(C)C | C14H27NO2Si2
